### PR TITLE
feat(ErdosProblems/342)

### PR DESCRIPTION
**Pull request by aditya-ramabadran**
# Description

> With $a_1=1 $ and $a_2=2$  let $a_{n+1} $ for $n\ge 2 $ be the least integer greater than $a_n $ which can be expressed uniquely as $a_i + a_j $for $i < j <= n$.  Do infinitely many pairs $(a,a+2)$  occur in the sequence?  Does Ulam's sequence eventually have periodic differences?  Is the density of the sequence 0?

- Closes google-deepmind#2120
- Quantifies over all u with `IsUlamSequence u`, I think this is cleaner than defining a specific Ulam Sequence 

# Testing
- Compiles successfully
```shell
$ lake build FormalConjectures/ErdosProblems/342.lean
Build completed successfully.
```

### CODE REVIEW

File: FormalConjectures/ErdosProblems/342.lean [hunk 1]
```diff
@@ -0,0 +1,60 @@
...
+
+/-!
+# Erdos Problem 342
+
+*References:*
+- [erdosproblems.com/342](https://www.erdosproblems.com/342)
+- [OEIS A002858](https://oeis.org/A002858)
+-/
+
+namespace Ulam
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/342.lean]:
```suggestion
namespace Erdos342
```

File: FormalConjectures/ErdosProblems/342.lean [hunk 2]
```diff
@@ -0,0 +1,60 @@
...
+Do infinitely many pairs (a, a+2) occur in Ulam's sequence?
+-/
+@[category research open, AMS 05 40]
+theorem erdos_342_infinitely_many_pairs :
+    answer(sorry) ↔
+      ∀ u : ℕ → ℕ, IsUlamSequence u →
+        ∀ N : ℕ, ∃ n ≥ N, u (n + 1) = u n + 2 := by
+  sorry
+
+end Ulam
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/342.lean]:
```suggestion
end Erdo342
```

File: FormalConjectures/ErdosProblems/342.lean [hunk 3]
```diff
@@ -0,0 +1,60 @@
...
+Unless required by applicable law or agreed to in writing, software
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Erdos Problem 342
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/342.lean]:
```suggestion
# Erdős Problem 342
```

File: FormalConjectures/ErdosProblems/342.lean [hunk 4]
```diff
@@ -0,0 +1,60 @@
...
+namespace Ulam
+
+/--
+`UniqueUlamSum u n m` means that `m` has a unique representation as `u i + u j`
+with `1 ≤ i < j ≤ n`.
+-/
+def UniqueUlamSum (u : ℕ → ℕ) (n m : ℕ) : Prop :=
+  ∃! ij : ℕ × ℕ,
+    1 ≤ ij.1 ∧ ij.1 < ij.2 ∧ ij.2 ≤ n ∧
+    m = u ij.1 + u ij.2
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/342.lean]:
```suggestion
/-- `UniqueUlamSum a n m` means that $m$ has a unique representation as $a(i) + a(j)$
with $i < j < n$. -/
def UniqueUlamSum (a : ℕ → ℕ) (n m : ℕ) : Prop :=
  ∃! p : ℕ × ℕ, p.1 < p.2 ∧ p.2 < n ∧ m = a p.1 + a p.2
```

Let's use 0-indexing here?!

File: FormalConjectures/ErdosProblems/342.lean [hunk 5]
```diff
@@ -0,0 +1,60 @@
...
+`u 1 = 1`, `u 2 = 2`, and for `n ≥ 2`, `u (n+1)` is the least integer greater than `u n`
+that has a unique representation as `u i + u j` with `1 ≤ i < j ≤ n`.
+-/
+def IsUlamSequence (u : ℕ → ℕ) : Prop :=
+  u 1 = 1 ∧
+  u 2 = 2 ∧
+  ∀ n : ℕ, 2 ≤ n →
+    u (n + 1) > u n ∧
+    UniqueUlamSum u n (u (n + 1)) ∧
+    ∀ m : ℕ, u n < m → UniqueUlamSum u n m → u (n + 1) ≤ m
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/342.lean]:
```suggestion
/-- `IsUlamSequence a` means that $a$ is the Ulam sequence (OEIS A002858):
$a(0) = 1$, $a(1) = 2$, and for each $n \geq 2$, $a(n)$ is the least integer
greater than $a(n-1)$ that has a unique representation as $a(i) + a(j)$
with $i < j < n$. -/
def IsUlamSequence (a : ℕ → ℕ) : Prop :=
  a 0 = 1 ∧ a 1 = 2 ∧
  ∀ n, 2 ≤ n →
    a (n - 1) < a n ∧
    UniqueUlamSum a n (a n) ∧
    ∀ m, a (n - 1) < m → m < a n → ¬ UniqueUlamSum a n m
```

Also changing to 0-indexing here

File: FormalConjectures/ErdosProblems/342.lean [hunk 6]
```diff
@@ -0,0 +1,60 @@
...
+
+/--
+Do infinitely many pairs (a, a+2) occur in Ulam's sequence?
+-/
+@[category research open, AMS 05 40]
+theorem erdos_342_infinitely_many_pairs :
+    answer(sorry) ↔
+      ∀ u : ℕ → ℕ, IsUlamSequence u →
+        ∀ N : ℕ, ∃ n ≥ N, u (n + 1) = u n + 2 := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/342.lean]:
```suggestion
Do infinitely many pairs $(a, a+2)$ occur in Ulam's sequence? -/
@[category research open, AMS 11]
theorem erdos_342.parts.i :
    answer(sorry) ↔
      ∀ a : ℕ → ℕ, IsUlamSequence a →
        ∀ N : ℕ, ∃ n ≥ N, a (n + 1) = a n + 2 := by
  sorry
```

This follows the naming convention in `ErdosProblems/README.md`. Please leave a `--TODO` for the other main parts (or add them here) and questions from additional material.

**Comment by aditya-ramabadran** [comment]
I made the changes @mo271 and added TODOs for the other parts. Part (iii) is also equivalently in Ben Green's problems as Problem 7. There are also some more open ended parts (Ben Green asks "Can one
explain the curious Fourier properties of this sequence?") that can't really be formalized

**Comment by aditya-ramabadran** [comment]
Actually I was able to formalize the second part as well by looking at how periodic differences were formalized in https://github.com/google-deepmind/formal-conjectures/blob/main/FormalConjectures/ErdosProblems/341.lean

**Comment by aditya-ramabadran** [comment]
Formalized the third part as well, also removed the comment about Ben Green's open problem 7 from part (iii) since it's not exactly equivalent (Ben Green Problem 7 asks if the sequence has positive asymptotic density, this is only the negation of having 0 asymptotic density if we assume the asymptotic density / limit exists)

File: FormalConjectures/ErdosProblems/342.lean [hunk 7]
```diff
@@ -0,0 +1,81 @@
...
+
+/--
+Does Ulam's sequence eventually have periodic differences? That is, is $a(n+1) - a(n)$ eventually periodic?
+-/
+@[category research open, AMS 05 11 40]
+theorem erdos_342.parts.ii :
+    answer(sorry) ↔
+      ∀ a : ℕ → ℕ, IsUlamSequence a →
+        let d : ℕ → ℤ := fun n ↦ (a (n + 1) : ℤ) - (a n : ℤ)
```
Comment (eric-wieser) [inline FormalConjectures/ErdosProblems/342.lean]:
```suggestion
        let d (n : ℕ) : ℤ := a (n + 1) - a n
```
I think should work

**Comment by aditya-ramabadran** [comment]
Thanks @eric-wieser!

File: FormalConjectures/ErdosProblems/342.lean [hunk 8]
```diff
@@ -0,0 +1,81 @@
...
+-/
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Erdős Problem 342
+
+*References:*
+- [erdosproblems.com/342](https://www.erdosproblems.com/342)
+- [Ben Green's Open Problem 7](https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#problem.7)
+- [OEIS A002858](https://oeis.org/A002858)
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/342.lean:24]:
```suggestion
- [OEIS A002858](https://oeis.org/A002858)
- [Gu04] Guy, Richard K., *Unsolved problems in number theory* (2004), xviii+437.
```

File: FormalConjectures/ErdosProblems/342.lean [hunk 9]
```diff
@@ -0,0 +1,81 @@
...
+$a(0) = 1$, $a(1) = 2$, and for each $n \geq 2$, $a(n)$ is the least integer
+greater than $a(n-1)$ that has a unique representation as $a(i) + a(j)$
+with $i < j < n$. -/
+def IsUlamSequence (a : ℕ → ℕ) : Prop :=
+  a 0 = 1 ∧ a 1 = 2 ∧
+  ∀ n, 2 ≤ n →
+    a (n - 1) < a n ∧
+    UniqueUlamSum a n (a n) ∧
+    ∀ m, a (n - 1) < m → m < a n → ¬ UniqueUlamSum a n m
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/342.lean:48]:
```suggestion

/-- $a(0) = 1$ by definition. -/
@[category test, AMS 5 11 40]
theorem erdos_342.test.a0 : ∀ a : ℕ → ℕ, IsUlamSequence a → a 0 = 1 := by
  intro a ⟨ha0, _, _⟩; exact ha0

/-- $a(1) = 2$ by definition. -/
@[category test, AMS 5 11 40]
theorem erdos_342.test.a1 : ∀ a : ℕ → ℕ, IsUlamSequence a → a 1 = 2 := by
  intro a ⟨_, ha1, _⟩; exact ha1

/-- $a(2) = 3$: the only pair $(i,j)$ with $i < j < 2$ is $(0,1)$, giving $1 + 2 = 3$. -/
@[category test, AMS 5 11 40]
theorem erdos_342.test.a2 : ∀ a : ℕ → ℕ, IsUlamSequence a → a 2 = 3 := by
  intro a ⟨ha0, ha1, ha⟩
  obtain ⟨_, ⟨⟨i, j⟩, ⟨hij, hj, hsum⟩, _⟩, _⟩ := ha 2 (by omega)
  interval_cases j <;> simp_all only [lt_one_iff, not_lt_zero']

/-- $a(3) = 4$: among sums $> 3$ with a unique representation from $\{1,2,3\}$,
the smallest is $4 = 1 + 3$. The candidate $5 = 2 + 3$ is ruled out by minimality since
$4$ has a unique representation. -/
@[category test, AMS 05 11 40]
theorem erdos_342.test.a3 : ∀ a : ℕ → ℕ, IsUlamSequence a → a 3 = 4 := by
  intro a ⟨ha0, ha1, ha⟩
  have ha2 := erdos_342.test.a2 a ⟨ha0, ha1, ha⟩
  obtain ⟨hinc, ⟨⟨i, j⟩, ⟨hij, hj, hsum⟩, _⟩, hmin⟩ := ha 3 (by omega)
  simp only [show (3 : ℕ) - 1 = 2 from rfl] at hinc hmin
  -- hinc : a 2 < a 3, hmin : ∀ m, a 2 < m → m < a 3 → ¬UniqueUlamSum a 3 m
  -- hsum : a 3 = a i + a j, hij : i < j, hj : j < 3
  -- Enumerate j ∈ {0, 1, 2}
  interval_cases j
  · -- j = 0: i < 0 impossible
    omega
  · -- j = 1: i = 0, so a 3 = a 0 + a 1 = 1 + 2 = 3, but a 3 > a 2 = 3
    have hi : i = 0 := by omega
    subst hi; rw [ha0, ha1] at hsum; rw [ha2] at hinc; omega
  · -- j = 2
    interval_cases i
    · -- i = 0: a 3 = a 0 + a 2 = 1 + 3 = 4
      rw [ha0, ha2] at hsum; exact hsum
    · -- i = 1: a 3 = a 1 + a 2 = 2 + 3 = 5
      rw [ha1, ha2] at hsum
      -- hsum : a 3 = 5. Use minimality: m = 4 has unique sum, contradiction.
      exfalso
      have h4 := hmin 4 (by rw [ha2]; omega) (by omega)
      apply h4
      -- Goal: UniqueUlamSum a 3 4, i.e. ∃! (p : ℕ × ℕ), p.1 < p.2 ∧ p.2 < 3 ∧ 4 = a p.1 + a p.2
      -- Witness: (0, 2) since a 0 + a 2 = 1 + 3 = 4
      refine ⟨⟨0, 2⟩, ⟨by omega, by omega, by rw [ha0, ha2]⟩, ?_⟩
      -- Uniqueness: check all pairs (i', j') with i' < j' < 3
      rintro ⟨i', j'⟩ ⟨hij', hj', hsum'⟩
      simp only [Prod.mk.injEq]
      interval_cases j'
      · omega
      · interval_cases i'
        · rw [ha0, ha1] at hsum'; omega
      · interval_cases i'
        · rw [ha0, ha2] at hsum'; constructor <;> omega
        · rw [ha1, ha2] at hsum'; omega

```

I thought it would be good to have some test statements for the definition of the Ulam sequence. the `a3` test is a little long, so perhaps better to sorry it out...

Comment (aditya-ramabadran) [reply FormalConjectures/ErdosProblems/342.lean:48]: I think probably better to sorry it out since it is a little long, but is that better than just not having a test for a3?

**Comment by aditya-ramabadran** [comment]
Thanks @mo271, not sure what's better between having the test for a3, having the test but sorrying it out, or not having it at all so for now just committed your changes with the test :)

And yes, can easily do Ben Green problem 7 next!

File: FormalConjectures/ErdosProblems/342.lean [hunk 10]
```diff
@@ -0,0 +1,141 @@
...
+Part (iii), is the density of the sequence 0?
+-/
+@[category research open, AMS 05 11 40]
+theorem erdos_342.parts.iii :
+    answer(sorry) ↔
+      ∀ a : ℕ → ℕ, IsUlamSequence a →
+        Tendsto
+          (fun N : ℕ =>
+            (Finset.card (Finset.filter (fun n ↦ a n ≤ N) (Finset.range N)) : ℝ) / N)
+          atTop (𝓝 0) := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/342.lean]:
```suggestion
        Set.upperDensity (Set.range a) = 0 := by
```
Let's use upperDensity here. see also #3586

File: FormalConjectures/ErdosProblems/342.lean [hunk 11]
```diff
@@ -0,0 +1,141 @@
...
+        · rw [ha0, ha2] at hsum'; constructor <;> omega
+        · rw [ha1, ha2] at hsum'; omega
+
+/--
+Do infinitely many pairs $(a, a+2)$ occur in Ulam's sequence? -/
+@[category research open, AMS 05 11 40]
+theorem erdos_342.parts.i :
+    answer(sorry) ↔
+      ∀ a : ℕ → ℕ, IsUlamSequence a →
+        ∀ N : ℕ, ∃ n ≥ N, (a (n + 1)) = (a n) + 2 := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/342.lean]:
```suggestion
        Set.Infinite {n : ℕ | ∃ m, a m = a n + 2} := by
```
is arguably also more idiomatic, also from #3586

**Comment by aditya-ramabadran** [comment]
Thanks! These changes are definitely cleaner
